US08003647B2
5-Benzyloxy-6-methyl-1H-indole-2-carboxylic acid
To a solution of 5-benzyloxy-6-methyl-1H-indole-2-carboxylic acid methyl ester (1.3 g) in a mixed solvent of 1,4-dioxane (40 mL) and water (20 mL) was added Lithium hydroxide mono hydrate (1.8 g) at room temperature and this mixture was stirred at 50° C. for 1 hour. After this reaction mixture was cooled to room temperature, 1 mol/L hydrochloric acid was added. This precipitated solid was collected by filtration, and washed with water, dried under reduced pressure to give the title compound (1.0 g).

reactant | 5-benzyloxy-6-methyl-1H-indole-2-carboxylic acid methyl ester | 1.3 g | COC(=O)C=1NC2=CC(=C(C=C2C1)OCC1=CC=CC=C1)C | C18H17NO3
reactant | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
reactant | Lithium hydroxide mono hydrate | 1.8 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 5-Benzyloxy-6-methyl-1H-indole-2-carboxylic acid | 1.0 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1C)C(=O)O | C17H15NO3
